US09340573B2
To a solution of (S)-ethyl 1-((S)-2-amino-3-methylbutanoyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-2-carboxylate hydrochloride (1.6 g, 4.88 mmol, Eq: 1.00) in DMF (20 mL) was added (S)-2-(tert-butoxycarbonyl(methyl)amino)propanoic acid (1.2 g, 5.9 mmol, Eq: 1.21) and HATU (2.2 g, 5.79 mmol, Eq: 1.19). Diisopropylethylamine (1.63 g, 2.2 mL, 12.6 mmol, Eq: 2.58) was then added and the resulting yellow solution was stirred at rt for 1 h. The reaction mixture was diluted with EtOAc (100 mL) and hexanes (50 mL) and washed with 0.1 M aqueous KHSO4, 0.1 M aqueous NaOH, and brine and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 80 g, 0% to 20% EtOAc/(DCM:hexanes 1:1) then 20% to 40% EtOAc/(DCM:hexanes 1:1) after first spot has eluted) to give (S)-ethyl 1-((S)-2-((S)-2-(tert-butoxycarbonyl(methyl)amino)propanamido)-3-methylbutanoyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-2-carboxylate (1.9 g), m/z=477 (M+H).

reactant | (S)-ethyl 1-((S)-2-amino-3-methylbutanoyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-2-carboxylate hydrochloride | 4.88 mmol, 1.6 g | Cl.N[C@H](C(=O)N1[C@@H](CC=2C1=NC=CC2)C(=O)OCC)C(C)C
reactant | (S)-2-(tert-butoxycarbonyl(methyl)amino)propanoic acid | 5.9 mmol, 1.2 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)C)C | C9H17NO4
reactant | HATU | 5.79 mmol, 2.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Diisopropylethylamine | 12.6 mmol, 2.2 mL, 1.63 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-ethyl 1-((S)-2-((S)-2-(tert-butoxycarbonyl(methyl)amino)propanamido)-3-methylbutanoyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | 1.9 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)N[C@H](C(=O)N1[C@@H](CC=2C1=NC=CC2)C(=O)OCC)C(C)C)C)C | C24H36N4O6
